US04199582
In 50 ml. of ethanol was dissolved a mixture of 2 g. of 6-piperidino-3,4-dihydro-1(2H)-naphthalenone hydrochloride, 4 g. of 1-benzhydrylpiperazine hydrochloride and 4 g. of a 37% aqueous solution of formalin. The solution was allowed to stand at room temperature for 10 days, after which it was neutralized with aqueous sodium hydrogen carbonate and extracted with chloroform. The extract was dried and the solvent was distilled off under reduced pressure, whereby 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-piperidino-3,4-dihydro-1(2H)-naphthalenone was obtained as an oil. This oil was dissolved in 50 ml. of methanol and the solution was stirred with 3 g. of sodium borohydride at room temperature for 30 minutes. The reaction mixture was diluted with 500 ml. of water and extracted with chloroform. The extract was dried and the solvent was distilled off under reduced pressure. By the above procedure there was obtained 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-piperidino-1,2,3,4-tetrahydro-1-naphthalenol as an oil. This oily product was dissolved in 50 ml. of 20% ethanolic HCl and the solution was heated under reflux for 2 hours. After cooling, the crystals were collected by filtration, whereby 2.7 g. of 3-[(4-benzhydryl-1-piperazinyl)methyl]-7-piperidino-1,2-dihydronaphthalene hydrochloride was obtained as colorless prisms melting at 195°-199° C.(decomposition).

reactant | 6-piperidino-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.N1(CCCCC1)C=1C=C2CCCC(C2=CC1)=O
reactant | 1-benzhydrylpiperazine hydrochloride | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1
reactant | formalin | C=O | CH2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-piperidino-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC1C(C2=CC=C(C=C2CC1)N1CCCCC1)=O | C33H39N3O
